US05401436
Synthesis of (S,S)-4-(3'-chloro-1'-methylbutoxy)benzoic acid-4-(4'-n-butoxyphenyl)phenyl ester
0.21 g of (S, S)-4-(3'-chloro-1'-methylbutoxy)benzoic acid, 0.21 g of 4-n-butoxyphenyl phenol, 0.19 g of dicyclohexylcarbodiimide, 0.03 g of 4-pyrrolidinopyridene and 6 ml of methylene chloride were stirred together at room temperature for five hours. The dicyclohexyl urea thus precipitated was filtered and the filtrate was desolvated. The crude product thus obtained was purified by silica gel column chromatography with the use of a mixture of n-hexane and ethyl acetate (9:1) as a developing solvent to thereby give 0.2 g of the title compound.

reactant | (S, S)-4-(3'-chloro-1'-methylbutoxy)benzoic acid | 0.21 g | Cl[C@H](C[C@@H](OC1=CC=C(C(=O)O)C=C1)C)C | C12H15ClO3
reactant | 4-n-butoxyphenyl phenol | 0.21 g | C(CCC)OC1=CC=C(C=C1)C1=C(C=CC=C1)O | C16H18O2
reactant | dicyclohexylcarbodiimide | 0.19 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | (S,S)-4-(3'-chloro-1'-methylbutoxy)benzoic acid-4-(4'-n-butoxyphenyl)phenyl ester | 0.2 g | C(CCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)O[C@H](C[C@H](C)Cl)C)=O | C28H31ClO4
